### ISSUE TITLE
Teach `linarith` that naturals are positive

### ISSUE THREAD

**Issue by alexjbest** [leanprover-community/mathlib4#7031]
It would be nice if `linarith` could solve the following:

```lean
import Mathlib.Data.Real.Basic
example (n : Nat) : 0 ≤ (n : ℝ) := by linarith
```
this version could of course be solved by `norm_cast <;> linarith` but
```lean
import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic

example (n : Nat) : 0 ≤ (n : ℝ) * Real.pi := by
  norm_cast
  linarith
```
is harder

cf. https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/more.20induction.20related.20questions/near/389403349

**Comment by robertylewis** [comment]
This is closed by #7439! The second example is nonlinear and out of scope for `linarith`, but `nlinarith` provided with the right lemma should get it now.
